US08022222B2
Step B: Preparation of ethyl 2-(2-(tert-butoxycarbonylamino)pyridin-4-yl)acetate:
A flask was charged with ethyl 2-(2-chloropyridin-4-yl)acetate (20.00 g, 100.2 mmol), tert-butyl carbamate (35.21 g, 300.5 mmol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (2.90 g, 5.01 mmol), tris(dibenzylideneacetone)dipalladium(0) (2.29 g, 2.51 mmol), cesium carbonate (48.96 g, 150 mmol) and THF (400 mL). The mixture was heated at reflux under nitrogen for 24 hours. Upon cooling, the reaction was quenched with 10% ammonium acetate solution and extracted with ethyl acetate. The combined organic extracts were washed with water and brine, dried and concentrated. The residue was purified by silica gel chromatography, eluting with 20% ethyl acetate/hexane to yield 20.80 g (72.6% yield) of the desired product as white solid.

reactant | ethyl 2-(2-chloropyridin-4-yl)acetate | 100.2 mmol, 20.00 g | ClC1=NC=CC(=C1)CC(=O)OCC | C9H10ClNO2
reactant | tert-butyl carbamate | 300.5 mmol, 35.21 g | C(N)(OC(C)(C)C)=O | C5H11NO2
reactant | cesium carbonate | 150 mmol, 48.96 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 2.51 mmol, 2.29 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 5.01 mmol, 2.90 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | ethyl 2-(2-(tert-butoxycarbonylamino)pyridin-4-yl)acetate | 20.80 g, 72.6% yield | C(C)(C)(C)OC(=O)NC1=NC=CC(=C1)CC(=O)OCC | C14H20N2O4
